US03952007
5-nitro-1-(2-p-toluenesulfonyloxyethyl)-2-(2-dimethylaminovinyl)-imidazole
2.26 g. (0.01 mole) of 5-nitro-1-(2-hydroxyethyl)-2-(2-dimethylaminovinyl)-imidazole and 1.9 g. (0.01 mole) of p-toluenesulfochloride were agitated in 20 ml. of pyridine at 20° C. for 2 hours. Then, the mixture was poured on ice water and vacuum-filtered; m.p. 116°-118° C.

reactant | 5-nitro-1-(2-hydroxyethyl)-2-(2-dimethylaminovinyl)-imidazole | 0.01 mole | [N+](=O)([O-])C1=CN=C(N1CCO)C=CN(C)C | C9H14N4O3
reactant | p-toluenesulfochloride | 0.01 mole | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5-nitro-1-(2-p-toluenesulfonyloxyethyl)-2-(2-dimethylaminovinyl)-imidazole | [N+](=O)([O-])C1=CN=C(N1CCOS(=O)(=O)C1=CC=C(C=C1)C)C=CN(C)C | C16H20N4O5S
